US08236826B2
Production of 1-(t-butoxycarbonyl)-4-{4-[4-(3,4-dichlorobenzoylamino)phenoxy]phenyl}-4-hydroxypiperidine
To a solution of N-[4-(4-bromophenoxy)phenyl]-3,4-dichlorobenzamide (4.94 g, 11.3 mmol) in THF (100 mL) was stirred at −85° C., and added a solution of 2.46 M n-butyl lithium hexane (9.65 mL, 23.7 mmol) dropwise over 10 minutes. Upon stirring for 20 minutes at the same temperature, crystals were precipitated. To this reaction solution was added a solution of 1-(t-butoxycarbonyl)-4-piperidone (2.48 g, 12.4 mmol) in THF (20 mL). The temperature of the solution was raised over 3 hours to −40° C., and then aqueous saturated ammonium chloride was added to the solution. The resulting reaction solution was extracted with ethyl acetate, and dried over anhydrous magnesium sulfate. The solvent was then evaporated, and the residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=2:3 to 1:1), to yield 2.30 g of a white powder. These crystals were washed with ether, to thereby yield 1.80 g of the title compound.

reactant | N-[4-(4-bromophenoxy)phenyl]-3,4-dichlorobenzamide | 11.3 mmol, 4.94 g | BrC1=CC=C(OC2=CC=C(C=C2)NC(C2=CC(=C(C=C2)Cl)Cl)=O)C=C1 | C19H12BrCl2NO2
reactant | n-butyl lithium hexane | 23.7 mmol, 2.46 M, 9.65 mL | CCCCCC.C(CCC)[Li]
reactant | 1-(t-butoxycarbonyl)-4-piperidone | 12.4 mmol, 2.48 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(t-butoxycarbonyl)-4-{4-[4-(3,4-dichlorobenzoylamino)phenoxy]phenyl}-4-hydroxypiperidine | 2.30 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC=C(C=C1)OC1=CC=C(C=C1)NC(C1=CC(=C(C=C1)Cl)Cl)=O | C29H30Cl2N2O5
